US07915411B2
N′-(5-Cyano-2-methylsulfanyl-thiazol-4-yl)-N,N-dimethyl-formamidine
The title compound was prepared from the reaction of 4-Amino-2-methylsulfanyl-thiazole-5-carbonitrile with N,N-dimethylformamide dimethyl acetal using the procedure from Example 156B to provide the title compound as a white foam (0.132, g, 99%).

reactant | 4-Amino-2-methylsulfanyl-thiazole-5-carbonitrile | NC=1N=C(SC1C#N)SC | C5H5N3S2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | N′-(5-Cyano-2-methylsulfanyl-thiazol-4-yl)-N,N-dimethyl-formamidine | 99% | C(#N)C1=C(N=C(S1)SC)N=CN(C)C | C8H10N4S2
